US08648200B2
Ethyl 5-bromo-2-formylpyridine-3-carboxylate
To each of 106 separate 20-mL microwave vials, add: ethyl 5-bromo-2-methylpyridine-3-carboxylate (5 g, 20.48 mmol, 1.0 equiv), selenium dioxide (2.98 g, 26.63 mmol, 1.3 equiv), and 1,4-dioxane (13 mL). Heat the vessels to 180° C. for 20 min with microwave irradiation. Combine the contents of the reaction vessels; filter through a pad of silica gel (2 kg); and rinse the pad with DCM (3 L). Concentrate the combined filtrates under reduced pressure. Split the material into two equally-sized batches, and pass each through a pad of silica gel (2 kg) eluting with DCM. Concentrate the filtrate under reduced pressure to furnish the title compound as a yellow or pale orange solid (473 g, 93.2% yield). MS (m/z) (79Br/81Br) 258/260 (M+1).

reactant | ethyl 5-bromo-2-methylpyridine-3-carboxylate | 20.48 mmol, 5 g, 1.0 equiv | BrC=1C=C(C(=NC1)C)C(=O)OCC | C9H10BrNO2
reactant | selenium dioxide | 26.63 mmol, 2.98 g, 1.3 equiv | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | Ethyl 5-bromo-2-formylpyridine-3-carboxylate | BrC=1C=C(C(=NC1)C=O)C(=O)OCC | C9H8BrNO3
